US08470857B2
Step 1: Preparation of 4-[2-(2-carboxy-ethyl)-5-phenyl-pyrrol-1yl]-benzoic acid tert-butyl ester (1C, R2=phenyl).
To a stirred solution of 4,7-dioxo-7-phenyl-heptanoic acid (3.57 mmol, 1.0 eq.) in acetic acid (10 ml) was added tert-butyl 4-aminobenzoate (1.05 eq., 3.75 mmol). The mixture was heated to 80° C. for 36 hours. The solvent was evaporated in vacuo and the crude residue purified by flash silica-gel chromatography. Gradient elution with ethyl acetate/hexane (0% to 50% ethyl acetate in hexane over 20 minutes) gave the semi-pure product after combination of the appropriate fractions and evaporation of the solvent in vacuo. The tan solid obtained was used without further purification, 59% yield.

reactant | 4,7-dioxo-7-phenyl-heptanoic acid | 3.57 mmol, 1.0 eq. | O=C(CCC(=O)O)CCC(C1=CC=CC=C1)=O | C13H14O4
reactant | tert-butyl 4-aminobenzoate | 3.75 mmol, 1.05 eq. | NC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C11H15NO2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 4-[2-(2-carboxy-ethyl)-5-phenyl-pyrrol-1yl]-benzoic acid tert-butyl ester | 59% yield | C(C)(C)(C)OC(C1=CC=C(C=C1)N1C(=CC=C1C1=CC=CC=C1)CCC(=O)O)=O | C24H25NO4
